US08440666B2
2-[(3-Oxo-2,3-dihydropyridazin-4-yl)methyl]isoindoline-1,3-dione
2-[(3-Methoxypridazin-4-yl)methyl]isoindoline-1,3-dione (1.15 g, 4.27 mmol) in 1,4-dioxane (90 mL) was refluxed with 12 M hydrochloric acid (2 mL) for 1 hour. After completion of the reaction, the solvent was removed by vacuum distillation to give the desired product (1.1 g, 100% yield).

reactant | 2-[(3-Methoxypridazin-4-yl)methyl]isoindoline-1,3-dione | 4.27 mmol, 1.15 g | COC=1N=NC=CC1CN1C(C2=CC=CC=C2C1=O)=O | C14H11N3O3
reactant | hydrochloric acid | 12 M, 2 mL | Cl | ClH
solvent | 1,4-dioxane | 90 mL | O1CCOCC1 | C4H8O2
product | 2-[(3-Oxo-2,3-dihydropyridazin-4-yl)methyl]isoindoline-1,3-dione | 1.1 g, 100% yield | O=C1NN=CC=C1CN1C(C2=CC=CC=C2C1=O)=O | C13H9N3O3
